data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][NH+:21]1C(=CCC1(C2=CC(=CC(=C2)C(=O)CCC(=O)C)C(=O)CCC(=O)C)O)C.CC(=O)[O-:10].C(=O)[O-].O>>[H:20][O:10]C(=O)C.CC1=CCC([NH:21]1)(C2=CC(=CC(=C2)C(=O)CCC(=O)C)C(=O)CCC(=O)C)O.C(=O)[O-].O 10=20;20,21=21
[H:20][C:21]#CC1=CC=CC=C1.CC[NH:10]CC>>[H:20][NH+:10](CC)CC.[C-:21]#CC1=CC=CC=C1 10=20;20,21=21
CCCC(C)[OH:10].CCCC(C)OCC[S+:21]1C[CH2:20]1.[Cl-]>>CCCC(C)[OH+:10][CH2:20]C[S:21]CCOC(C)CCC.[Cl-] 10=20;20,21=21
CCCCOCC1C(C([C:21](=[CH2:20])[CH:22]=[O+:23]1)OCCCC)OCCCC.CC1=C[CH:10]=[C:11](C=C1)[OH:12].B(F)(F)F.CC(=O)[O-]>>CCCCOCC1C(C([C:21](=[CH:22][O:23]1)[CH2:20][CH:10]2C=C(C=C[C:11]2=[OH+:12])C)OCCCC)OCCCC.B(F)(F)F.CC(=O)[O-] 10,11=10,20;12=11;22,23=23;20,21=21,22
[H:10][B-:11](CC)(CC)CC.[Li+].C1CCC[CH:20](CCC1)[Br:21]>>[H:10][CH:20]1CCCCCCC1.[Li+].[B:11](CC)(CC)CC.[Br-:21] 10,11=10,20;20,21=21
[H:20][OH2+:21].C[C:11](=[CH:10]Br)[OH:12]>>[H:20][CH:10]([C:11](=[OH+:12])C)Br.[OH2:21] 10,11=10,20;20,21=21;12=11
[H:20][NH+:21](C)C.C[N:10](C)[Si-](C)(C)(C)Cl>>[H:20][N+:10](C)(C)[Si-](C)(C)(C)Cl.C[NH:21]C 10=20;20,21=21
C[C+:20](C)C1=C(C=CC=C1)CC[OH:10].O>>C[C:20]1(C)C2=C(C=CC=C2)CC[OH+:10]1.O 10=20
[Li:20]N(C(C)C)C(C)C.C1=CC=C(C=C1)[O:10]S(=O)(=O)C(F)(F)F>>[Li-:20](N(C(C)C)C(C)C)[O+:10](C1=CC=CC=C1)S(=O)(=O)C(F)(F)F 10=20,
[H:20][O:21]S(=O)(=O)F.CC(C)(CCC1=CC=CC=C1)[OH:10]>>[H:20][OH+:10]C(C)(C)CCC1=CC=CC=C1.[O-:21]S(=O)(=O)F 10=20;20,21=21
CC(C)CC1=CC=C(C=C1)[CH:20]([C:11](C)([C:10]2=CC=CC=C2)[OH:12])[OH2+:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-]>>CC(C)CC1=CC=C(C=C1)[CH:20]([C:10]2=CC=CC=C2)[C:11](=[OH+:12])C.[OH2:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
CC=C[C:20](C)([C:10](=[C:11](C)[O-:12])C=C)[OH:21]>>CC=C[C:20](=[C:10](C=C)[C:11](=[O:12])C)C.[OH-:21] 10,11=10,20;20,21=21;12=11
[H:20][O:21]P(=O)(O)O.C[N:10]1CCC23C4C1CC5=CC=C(C(=C52)OC3C(C=C4)O)O>>[H:20][N+:10]1(CCC23C4C1CC5=CC=C(C(=C52)OC3C(C=C4)O)O)C.OP(=O)(O)[O-:21] 10=20;20,21=21
[H:20][OH2+:21].CCC[CH:10]=[C:11](O)OC>>[H:20][CH:10](CCC)[C+:11](O)OC.[OH2:21] 10,11=10,20;20,21=21
CCOC(=O)C1=C([NH:10][C:20]2(C1C=C(C=C2)O)[OH2+:21])COC.CCOC(=O)C.CC(=O)[O-]>>CCOC(=O)C1=C([NH+:10]=[C:20]2C1C=C(C=C2)O)COC.[OH2:21].CCOC(=O)C.CC(=O)[O-] 10=20;20,21=21
CC[NH2:10].C[C:20](=[O:21])OC(=O)CCC=O>>CC[NH2+:10][C:20](C)([O-:21])OC(=O)CCC=O 10=20;20,21=21
CC1=CC=C(C=C1)S(=O)(=O)OCC2[CH2:20][O:21]2.C=C[CH2:10][Mg:11]Br>>CC1=CC=C(C=C1)S(=O)(=O)OCC([CH2:20][CH2:10]C=C)[O-:21].[Mg+:11]Br 10,11=10,20;20,21=21
[H:20][O:21]C(C)(C)C.CC(C)C1=C(C(=CC=C1)C(C)C)N2C=C[N+](=C2C(=CC(C3=CC=CC=C3)C(C4=CC=CC=C4)(C(F)(F)F)[O-:10])O)C5=C(C=CC=C5C(C)C)C(C)C>>[H:20][O:10]C(C1=CC=CC=C1)(C(C=C(C2=[N+](C=CN2C3=C(C=CC=C3C(C)C)C(C)C)C4=C(C=CC=C4C(C)C)C(C)C)O)C5=CC=CC=C5)C(F)(F)F.CC(C)(C)[O-:21] 10=20;20,21=21
[H:20][O:21]P(=O)(O)O.CC1(CCCC1[OH:10])C>>[H:20][OH+:10]C1CCCC1(C)C.OP(=O)(O)[O-:21] 10=20;20,21=21
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)C(C)(C)C)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(C)(C)[C:24]1=[CH:23][CH:22]=[C:21](C=C1)[N+](=O)[O-] 10=20;20,21=21,22;22,23=23,24
C1COCC[NH:10]1.C1=CC=C(C=C1)C(=O)[CH2:20][Cl:21]>>C1COCC[NH+:10]1[CH2:20]C(=O)C2=CC=CC=C2.[Cl-:21] 10=20;20,21=21
[H:20][CH:21]1CCCC[C:22]1=[N+:23](CCC)CCC.CCC[NH:10]CCC.O[Ti-](Cl)(Cl)(Cl)Cl>>[H:20][NH+:10](CCC)CCC.CCC[N:23](CCC)[C:22]1=[CH:21]CCCC1.O[Ti-](Cl)(Cl)(Cl)Cl 10=20;22,23=23;20,21=21,22
[H:20][O:21]S(=O)(=O)O.CC(C)C1CC2CC3CC2C1CC3(C)[N:10]=CO.CC(=O)O.[Na+]>>[H:20][N+:10](=CO)C1(CC2C3CC1CC3CC2C(C)C)C.OS(=O)(=O)[O-:21].CC(=O)O.[Na+] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.COC(C1=CC=CC=C1)[O:10]C.C1C(C(C(C(C1N=[N+]=[N-])OC2C(C(C(C(O2)CN=[N+]=[N-])O)O)O)O)OC3C(C(C(C(O3)CO)O)N=[N+]=[N-])O)N=[N+]=[N-]>>[H:20][O+:10](C)C(C1=CC=CC=C1)OC.CC1=CC=C(C=C1)S(=O)(=O)[O-:21].C1C(C(C(C(C1N=[N+]=[N-])OC2C(C(C(C(O2)CN=[N+]=[N-])O)O)O)O)OC3C(C(C(C(O3)CO)O)N=[N+]=[N-])O)N=[N+]=[N-] 10=20;20,21=21
[H:20][O:21]CC.CCOC(=O)C(=C(C)C(=O)C)[O-:10]>>[H:20][O:10]C(=C(C)C(=O)C)C(=O)OCC.CC[O-:21] 10=20;20,21=21
CC(C)CCCC1CCC2C1(CCC3C2CCC4=C[C:20](=[O:21])CCC34C)C.C1CC[NH:10]C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1>>CC(C)CCCC1CCC2C1(CCC3C2CCC4=C[C:20](CCC34C)([NH+:10]5CCCC5)[O-:21])C.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1 10=20;20,21=21
CCN1CCC23C4[C:20](CCC2(C1CC5=C3C(=C(C=C5)OC)O4)O)([NH:10]N)[OH:21].C(COCCO)O.O>>CCN1CCC23C4[C:20](=[NH+:10]N)CCC2(C1CC5=C3C(=C(C=C5)OC)O4)O.[OH-:21].C(COCCO)O.O 10=20;20,21=21
CC1C[C:10]2(CCC(C1O)[C:11]2([O-:12])OC)[C:20](=[O:21])OC>>CC1C[C:10](=[C:20]([O-:21])OC)CCC(C1O)[C:11](=[O:12])OC 10,11=10,20;20,21=21;12=11
[H:20][OH2+:21].C1CN(C(CC1(O)[O:10]CCO)CC2=CC=CC=C2)C(=O)C3=CC(=CC(=C3)C(F)(F)F)C(F)(F)F.CCO.[Cl-]>>[H:20][O+:10](CCO)C1(CCN(C(C1)CC2=CC=CC=C2)C(=O)C3=CC(=CC(=C3)C(F)(F)F)C(F)(F)F)O.[OH2:21].CCO.[Cl-] 10=20;20,21=21
[H:10][Si-:11](CC)(CC)(CC)[O+]([B-](F)(F)F)C.CC1C(C(C([C:20](=[O+:21]1)C2=CC=C(C=C2)C)OC(=O)C)OC(=O)C)OC(=O)C>>[H:10][C:20]1(C(C(C(C([O:21]1)C)OC(=O)C)OC(=O)C)OC(=O)C)C2=CC=C(C=C2)C.[B-]([O+](C)[Si:11](CC)(CC)CC)(F)(F)F 10,11=10,20;20,21=21
